US04731374
6-Acetylamino-2-ethylamino-4,5,6,7-tetrahydro-benzthiazole
6-Acetylamino-2-n-propylamino-4,5,6,7-tetrahydro-benzthiazole prepared from 6-acetylamino-2-propionylamino-4,5,6,7,-tetrahydro-benzthiazole at ambient temperature.

reactant | 6-Acetylamino-2-n-propylamino-4,5,6,7-tetrahydro-benzthiazole | C(C)(=O)NC1CC2=C(N=C(S2)NCCC)CC1 | C12H19N3OS
reactant | 6-acetylamino-2-propionylamino-4,5,6,7,-tetrahydro-benzthiazole | C(C)(=O)NC1CC2=C(N=C(S2)NC(CC)=O)CC1 | C12H17N3O2S
product | 6-Acetylamino-2-ethylamino-4,5,6,7-tetrahydro-benzthiazole | C(C)(=O)NC1CC2=C(N=C(S2)NCC)CC1 | C11H17N3OS
